US09376422B2
Step 4: methyl 5-bromo-3-(cyclopentylamino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (0.3 g, 1.33 mmol) and cyclopentanone (0.56 g, 6.6 mmol) in methanol (3 mL), acetic acid (0.159 g, 2.6 mmol) was added and reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (0.208 g, 3.3 mmol) was added and reaction stirred overnight. On completion, solvent was removed under reduced pressure and crude material was used as is in the next step.

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 1.33 mmol, 0.3 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | cyclopentanone | 6.6 mmol, 0.56 g | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 2.6 mmol, 0.159 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3.3 mmol, 0.208 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | methyl 5-bromo-3-(cyclopentylamino)-2-methylbenzoate | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCC1 | C14H18BrNO2
